* LM7909
*
* SPICE (Simulation Program with Integrated Circuit Emphasis)
* SUBCIRCUIT
*
* Connections:  Gnd
*                |    In
*                |    |   Out
*                |    |    |
.SUBCKT LM7909   2    1    3
RBIAS         55  3    220
RADJ          2   55   1465
D6            14  15   D_6V3_0
D5             3  17   D_1
D4             3  19   D_1
D3            12  13   D_0
D2            16   3   D_6V3_1
D1             3  18   D_2
QTU37         20  22  21   Q_PNP_1 1.000
QTU36         21  27  26   Q_PNP_1 1.000
QTU35          1  25   7   Q_PNP_0 1.000
QTU34         30   3  13   Q_PNP_2 0.090
QTU33          4   5   3   Q_PNP_0 1.000
QTU32          6   5   3   Q_PNP_0 1.000
QTU31          7   5   3   Q_PNP_0 1.000
QTU30         28   5   3   Q_PNP_0 1.000
QTU29          5  11   3   Q_PNP_0 1.000
QTU28         29  11   3   Q_PNP_0 1.000
QTU27         31   8  32   Q_PNP_0 1.000
QTU26          8   8  32   Q_PNP_0 1.000
QTU25          8   8   9   Q_PNP_0 1.000
QTU24         10   8   9   Q_PNP_0 1.000
QTU23          3  47  27   Q_NPN_0 1.000
QTU22          3  45  44   Q_NPN_1 10.00
QTU21          3  46  45   Q_NPN_2 3.000
QTU20         33  34  35   Q_NPN_0 1.000
QTU19         33  34  14   Q_NPN_0 1.000
QTU17         27  37  20   Q_NPN_0 1.000
QTU16         22  36   1   Q_NPN_0 1.000
QTU15         21  37  38   Q_NPN_0 1.000
QTU14          8  37  39   Q_NPN_0 1.000
QTU13         17  37  40   Q_NPN_0 1.000
QTU12         30  31  17   Q_NPN_0 1.000
QTU11         31  10  17   Q_NPN_0 1.000
QTU10         10  10  17   Q_NPN_0 1.000
QTU9          21   4   1   Q_NPN_0 1.000
QTU8           4   6   1   Q_NPN_0 1.000
QTU7           6  23   1   Q_NPN_0 1.000
QTU6          24  25  41   Q_NPN_0 1.000
QTU5          25  42   1   Q_NPN_0 1.000
QTU4          29  42  43   Q_NPN_0 1.000
QTU3           5  28  29   Q_NPN_0 1.000
QTU2          19  48  32   Q_NPN_0 1.000
QTU1          19  49   9   Q_NPN_0 1.000
R37          36  33  15K
R36          16  15  18K
R35          15  14  100K
R34          35  50  10
R33          14  35  150
R32          51  34  12K
C5           33  34  2P
R31          51  33  390
R30          21  51  12K
C4           22  36  5P
R29          21  22  6.8K
R28          20   1  500
R27          40  39  6K
R26          38   1  2.4K
R25          40   1  500
R24          50   1  40M
R23           4  52  20K
R22          52   1  4K
R21          23  52  8K
R20          41   1  4.2K
R19           7  24  12K
R18          43   1  600
R17          42  25  270
R16          37  42  1K
R15          28  37  4K
R14          11   5  750
R13           5  18  60K
R12          18  16  100K
R11          44  50  200M
R10          45  44  250
R9           21  46  100
R8           31  53  5K
C3           53  30  15P
C2           48  30  15P
R7            3  26  220
R6           30  47  2K
R5           54  47  800
C1            3  54  25P
R4           55  19  60
R3           48  12  20K
R2           19  48  2K
R1           19  49  2K
.MODEL D_6V3_0 D(IS=10F N=1.04 BV=6.3 IBV=1M CJO=1P TT=10p)
.MODEL D_6V3_1 D(IS=10F N=1.04 BV=6.3 IBV=1M CJO=1P TT=10p)
.MODEL D_0 D(IS=1F N=1.14 CJO=1P TT=10p)
.MODEL D_1 D(IS=1F N=1.16 CJO=1P TT=10p)
.MODEL D_2 D(IS=1F N=1.16 CJO=1P TT=10p)
.MODEL Q_PNP_0 PNP(IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P TF=10P TR=1N VAF=45)
.MODEL Q_PNP_1 PNP(IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P TF=10P TR=1N VAF=45)
.MODEL Q_PNP_2 PNP(IS=10F NF=1.14 NR=1.14 BF=100 CJC=1P CJE=2P TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0 NPN(IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1 NPN(IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2 NPN(IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P TF=10P TR=1N VAF=90)
.ENDS